US06858638B2
tert-Butyl 3-iodo-5-(2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate can be obtained in the following way: 22.6 ml of triethylamine and then 2.4 g of 4-(dimethylamino)pyridine are added to a suspension, under argon, of 38.8 g of N-(3-iodo-1H-indazol-5-yl)-2-methylsulfonylbenzenesulfonamide in 1.1 l of dichloromethane. The mixture is cooled to a temperature in the region of 0° C., and then a solution of 42.5 g of di-tert-butyl dicarbonate in 450 ml of dichloromethane is added dropwise over 45 minutes. The reaction mixture is stirred at a temperature in the region of 0° C. for 30 minutes and then at a temperature in the region of 20° C. for 16 hours. After the addition of 500 ml of distilled water and settling out, the organic phase is washed with 3 times 300 ml of distilled water, dried over magnesium sulfate, filtered, and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 25° C. The residue thus obtained is triturated in diisopropyl ether and then filtered through a sintered glass funnel. The solid is partially dried, dried, and then purified by chromatography on a column of 1.2 kg of silica gel (particle size 40-63 μm), eluting successively with cyclohexane/ethyl acetate (80/20; 70/30; 50/50 by volume) mixtures and with pure ethyl acetate. The fractions containing the expected product are pooled and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 35° C. The residue is taken up and triturated in diisopropyl ether, filtered through a sintered glass funnel and then partially dried and dried. 31 g of tert-butyl 3-iodo-5-(2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate are thus obtained in the form of an off-white solid (Rf=0.46, silica gel thin layer chromatography, eluent: cyclohexane/ethyl acetate (60-40 by volume)).

reactant | triethylamine | 22.6 ml | C(C)N(CC)CC | C6H15N
reactant | N-(3-iodo-1H-indazol-5-yl)-2-methylsulfonylbenzenesulfonamide | 38.8 g | IC1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C14H12IN3O4S2
reactant | di-tert-butyl dicarbonate | 42.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 500 ml | O | H2O
catalyst | 4-(dimethylamino)pyridine | 2.4 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 1.1 l | ClCCl | CH2Cl2
solvent | dichloromethane | 450 ml | ClCCl | CH2Cl2
product | tert-butyl 3-iodo-5-(2-methylsulfonylbenzenesulfonylamino)indazole-1-carboxylate | 31 g | IC1=NN(C2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C)C(=O)OC(C)(C)C | C19H20IN3O6S2
